US07253198B2
To a solution of 3-amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester (D4a) (200 mg, 0.87 mmol, 1 equiv) in (CH2Cl)2 (5 ml) were added sodium triacetoxyborohydride (1.536 g, 5.22 mmol, 6 equiv), 3-pentanone (0.546 ml, 5.22 mmol, 6 equiv) and AcOH (0.050 ml, 0.87 mmol, 1 equiv). The resulting mixture was stirred at room temperature for 48 h, diluted with CH2Cl2 (20 ml), washed with saturated aqueous NaHCO3 solution (20 ml), dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (iso-hexane/AcOH: 3/2) gave 3-(1-ethyl-propylamino)-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester (B43) (106 mg, 40%) as a colourless oil. [M+H]+=305.0 RT=3.19

reactant | 3-amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester | 0.87 mmol, 200 mg, 1 equiv | COC(C1=CC(=CC(=C1)N1C(CCC1)=O)N)=O | C12H14N2O3
reactant | sodium triacetoxyborohydride | 5.22 mmol, 1.536 g, 6 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-pentanone | 5.22 mmol, 0.546 ml, 6 equiv | CCC(CC)=O | C5H10O
reactant | AcOH | 0.87 mmol, 0.050 ml, 1 equiv | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-ethyl-propylamino)-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester | 106 mg, 40% | COC(C1=CC(=CC(=C1)N1C(CCC1)=O)NC(CC)CC)=O | C17H24N2O3
